US08334236B2
(6) Production of 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid
4.3 g (12 mmol) of ethyl 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate was dissolved in 1,4-dioxane (100 mL), and 1.0 g (24 mmol) of lithium hydroxide monohydrate and 50 mL of water were added thereto at room temperature. The resulting mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and a solid precipitated therefrom was dissolved in chloroform. This solution was washed with an aqueous solution of citric acid and water in this order, and was dried and concentrated. The solid thus obtained was washed with diisopropyl ether, and thus 3.96 g of the title compound was obtained as pale yellow crystals (yield: quantitative).

reactant | ethyl 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 12 mmol, 4.3 g | O1C2=C(OCC1)C=C(C=C2)N2C(C(=CC1=CC=CN=C21)C(=O)OCC)=O | C19H16N2O5
reactant | lithium hydroxide monohydrate | 24 mmol, 1.0 g | O.[OH-].[Li+]
reactant | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 3.96 g | O1C2=C(OCC1)C=C(C=C2)N2C(C(=CC1=CC=CN=C21)C(=O)O)=O | C17H12N2O5
